US06319940B1
At 80° C., a mixture of 4.2 g (0.022 mol) of 3-difluoromethoxy-thiophene-2-carboxylic acid in 45 ml of toluene is admixed with 3.1 g (0.026 mol) of thionyl chloride. After the addition has ended, the reaction mixture is heated to 90° C. and stirred at this temperature for another 2 hours. The reaction mixture is subsequently concentrated under reduced pressure at 60° C. This gives 4.6 (98.3% of theory) of 3-difluoromethoxy-thiophene-2-carbonyl chloride in the form of an oil.

reactant | 3-difluoromethoxy-thiophene-2-carboxylic acid | 0.022 mol, 4.2 g | FC(OC1=C(SC=C1)C(=O)O)F | C6H4F2O3S
reactant | thionyl chloride | 0.026 mol, 3.1 g | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 45 ml | C1(=CC=CC=C1)C | C7H8
product | 3-difluoromethoxy-thiophene-2-carbonyl chloride | 98.3% | FC(OC1=C(SC=C1)C(=O)Cl)F | C6H3ClF2O2S
